US06028223
Preparation of β-[[2-[[[3-(aminocarbonylamino)phenyl]-carbonyl]amino]acetyl]amino]pyridine-3-propanoic acid, hydrochloride salt
Urea (4 g) and ethyl β-[[2-[[(3-aminophenyl)-carbony]amino]acetyl]amino]pyridine-3-propanoate trifluoroacetate salt (4 g) were dissolved in 20% aqueous HCl (50 ml) and refluxed for 6 hours. The reaction was made basic with KOH (pH>12). After 4 hours the reaction was acidified with TFA and purified by HPLC (RP--CH3CN/H2O). The white solid was dissolved in 1:1 CH3CN:H2O (100 ml) and subjected to the resin exchange described in Example 43, Step C. Lyophilization gave the desired product (3.2 g). MS, 1H-NMR and CHNCl were consistent with the desired product.

reactant | Urea | 4 g | NC(=O)N | CH4N2O
reactant | ethyl β-[[2-[[(3-aminophenyl)-carbony]amino]acetyl]amino]pyridine-3-propanoate trifluoroacetate salt | 4 g | FC(C(=O)O)(F)F.NC=1C=C(C=CC1)C(=O)NCC(=O)NC(CC(=O)OCC)C=1C=NC=CC1
reactant | KOH | pH>12 | [OH-].[K+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 50 ml | Cl | ClH
product | β-[[2-[[[3-(aminocarbonylamino)phenyl]-carbonyl]amino]acetyl]amino]pyridine-3-propanoic acid, hydrochloride salt | 3.2 g | Cl.NC(=O)NC=1C=C(C=CC1)C(=O)NCC(=O)NC(CC(=O)O)C=1C=NC=CC1 | InChI=1S/C18H19N5O5.ClH/c19-18(28)22-13-5-1-3-11(7-13)17(27)21-10-15(24)23-14(8-16(25)26)12-4-2-6-20-9-12;/h1-7,9,14H,8,10H2,(H,21,27)(H,23,24)(H,25,26)(H3,19,22,28);1H
